US08426420B2
4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-methoxycarbonyl-butyryl]-piperazine-1-carboxylic acid cyclobutyl ester
To a solution of 150 mg 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid cyclobutyl ester in 3 ml DMF were added 42 mg EDC, 27 mg DMAP and 37 μl methanol. After 3 h the reaction mixture was concentrated and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 45 mg MS (ES+): m/e=722.

reactant | 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid cyclobutyl ester | 150 mg | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C35H45N7O9
reactant | EDC | 42 mg
reactant | methanol | 37 μl | CO | CH4O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 27 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-methoxycarbonyl-butyryl]-piperazine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C36H47N7O9
